US04814332
0.22 g of 1,3-diamino-2-methylimidazolium chloride is dissolved in 5 ml of glacial acetic acid, whereupon the solution is treated with a solution of 0.45 g of 4-dimethylaminobenzaldehyde in 5 ml of glacial acetic acid. After stirring for 2 hours, the yellow precipitate is removed by filtration. After drying, there is obtained 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-methylimidazolium chloride of decomposition point 264°-266°. The mother liquor is treated with ether, to yield a second portion of the desired product. The material obtained is recrystallized from hot water. There is obtained 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-methylimidazolium chloride of decomposition point 270°.

reactant | 1,3-diamino-2-methylimidazolium chloride | 0.22 g | [Cl-].N[N+]1=C(N(C=C1)N)C
reactant | 4-dimethylaminobenzaldehyde | 0.45 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-methylimidazolium chloride | [Cl-].CN(C1=CC=C(C=N[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)N(C)C)C)C=C1)C | InChI=1S/C22H27N6.ClH/c1-18-27(23-16-19-6-10-21(11-7-19)25(2)3)14-15-28(18)24-17-20-8-12-22(13-9-20)26(4)5;/h6-17H,1-5H3;1H/q+1;/p-1
